US05654472
A 10 l reaction vessel was charged with 110 g of 2-(2,4-difluorophenyl)-1,3-diacetoxy-2-propanol, 11 g of Lipase made by SEIKAGAKU CORPORATION, (derived from Rhizopus delemar, Enzyme No. 3), 2.8 l of 50 mM acetate buffer (pH 5 ) and 2.8 l of cyclohexane. The resulting mixture was stirred at 30° C. for 47 hours. The obtained reaction mixture was extracted twice with 3 l of ethyl acetate and the organic layers were combined and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure to give 90 g of (R)-2-(2,4-difluorophenyl)-3-acetoxy-1,2-propanediol.

reactant | 2-(2,4-difluorophenyl)-1,3-diacetoxy-2-propanol | 110 g | FC1=C(C=CC(=C1)F)C(COC(C)=O)(COC(C)=O)O | C13H14F2O5
reactant | acetate | 50 mM, 2.8 l, pH 5 | C(C)(=O)[O-]
solvent | cyclohexane | 2.8 l | C1CCCCC1 | C6H12
product | (R)-2-(2,4-difluorophenyl)-3-acetoxy-1,2-propanediol | 90 g | FC1=C(C=CC(=C1)F)[C@@](CO)(COC(C)=O)O | C11H12F2O4
